* PSpice Model Editor - Version 10.5.0
*$
.SUBCKT FDB8447L 2 1 3  
*Nom Temp=25 deg C
Dbody 7 5 DbodyMOD
Dbreak 5 11 DbreakMOD
Ebreak 11 7 17 7 42
Lgate 1 9 1.83e-9
Ldrain 2 5 0.1e-9
Lsource 3 7 0.33e-9
RLgate 1 9 18.3
RLdrain 2 5 1
RLsource 3 7 3.33
Rgate 9 6 1.3
It 7 17 1
Rbreak 17 7 RbreakMOD 1
.MODEL RbreakMOD RES (TC1=7.5e-4 TC2=-1e-6)
.MODEL DbodyMOD D (IS=1.9e-11 n=1.1 RS=4.2E-3 TRS1=1e-3 TRS2=1e-5 
+ CJO=6e-10 M=0.5 TT=7.5n XTI=1)
.MODEL DbreakMOD D (RS=1.8e-1 TRS1=1e-3 TRS2=0)
Rdrain 5 16 RdrainMOD 4.2m
.MODEL RdrainMOD RES (TC1=5.5e-3 TC2=2e-5)
M_BSIM3 16 6 7 7 Bsim3 W=3.76 L=1.13u NRS=1
.MODEL  Bsim3 NMOS (LEVEL=7 VERSION=3.1 MOBMOD=3 CAPMOD=2 paramchk=1 NQSMOD=0
**Process Parameters
+ TOX=450e-10 ;Oxide thickness
+ XJ=0.48u ;Channel depth
+ NCH=1.6e17 ;Channel concentration
**Channel Current
+ U0=700 VSAT=1e5 DROUT=1
+ DELTA=0.2 PSCBE2=0 RSH=1.758m   
**Threshold voltage
+ VTH0=1.6
**Sub-threshold characteristics
+ VOFF=-0.05 NFACTOR=2.85
**Junction diodes and Capacitance
+ LINT=0.155u DLC=0.155u 
+ CGSO=70p CGSL=0 CGDO=30p CGDL=150p
+ CJ=0 CF=0 CKAPPA=1 
** Temperature parameters
+ KT1=-1.15 KT2=0 UA1=1e-9
+ NJ=10
.ENDS
*FDB8447L(Rev.A) 4/23/07
*ST 
*$
